US07674795B2
In a 250 ml three-necked flask under an argon atmosphere, 5.3 g of 3-dimethylamino-1-propanol, in solution in 100 ml of tetrahydrofuran, are cooled to 0° C. using an ice bath and then introduce 2.3 g of sodium hydride at 50% in liquid petroleum jelly. After stirring for 1 hour at 0° C., rapidly add a solution of 3 g of 4,5-difluoro-2-nitroaniline in 100 ml of tetrahydrofuran and then heat in the region of 70° C. for 1 hour. The reaction mixture is poured into 100 ml of water and extracted with three times 100 ml of ethyl acetate. The organic phase is dried over magnesium sulphate and brought to dryness under reduced pressure. The solid obtained is washed with pentane, filtered, and dried under a hood. In this way, we obtain 3.5 g of 5-(3-dimethylaminopropoxy)-4-fluoro-2-nitrophenylamine, in the form of a yellow solid with the following characteristics:

reactant | 3-dimethylamino-1-propanol | 5.3 g | CN(CCCO)C | C5H13NO
reactant | sodium hydride | 2.3 g | [H-].[Na+]
reactant | 4,5-difluoro-2-nitroaniline | 3 g | FC1=CC(=C(N)C=C1F)[N+](=O)[O-] | C6H4F2N2O2
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-(3-dimethylaminopropoxy)-4-fluoro-2-nitrophenylamine | 3.5 g | CN(CCCOC=1C(=CC(=C(C1)N)[N+](=O)[O-])F)C | C11H16FN3O3
